US06350749B1
A mixture of 5-(2-fluorophenyl)cyclohexane-1,3-dione (1.0 g) and ammonium acetate (0.97 g) in 1-pentanol (30 ml) was refluxed for 30 minutes. To the mixture was added 3-butyn-2-one (0.97 g), and the mixture was refluxed for 14.5 hours. To the mixture was added 3-butyn-2-one (0.49 g), and the mixture was refluxed for 5 hours. Under reduced pressure, the solvent was evaporated, and the residue was dissolved in ethyl acetate. The solution was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue was purified with silica gel column chromatography (EtOAc/hexane) to give oil of 7-(2-fluorophenyl)-2,4-dimethyl-5,6,7,8-tetrahydroquinolin-5-one (0.12 g).

reactant | 5-(2-fluorophenyl)cyclohexane-1,3-dione | 1.0 g | FC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11FO2
reactant | ammonium acetate | 0.97 g | C(C)(=O)[O-].[NH4+]
reactant | 3-butyn-2-one | 0.97 g | CC(C#C)=O | C4H4O
reactant | 3-butyn-2-one | 0.49 g | CC(C#C)=O | C4H4O
solvent | 1-pentanol | 30 ml | C(CCCC)O | C5H12O
product | 7-(2-fluorophenyl)-2,4-dimethyl-5,6,7,8-tetrahydroquinolin-5-one | 0.12 g | FC1=C(C=CC=C1)C1CC(C=2C(=CC(=NC2C1)C)C)=O | C17H16FNO
